2184-01-18 07:24:00 Physician Resident Progress Note
Chief Complaint: SOB - progressive
   24 Hour Events:
   - Aline placed.
   - AM Labs: K: 8.0 given 4G Calcium, 10U regular Insulin, Bicarb,
   Dextrose. Renal consulted given worsening renal function high
   potassium. EKG with widening of QRS and PR intervals. No peaked T
   waves. Repeat K 8.5. Given 60 of Kayexalate. Repeat EKG with shortening
   of both QRS and PR intervals. K down to  6.4. Then back up to 7.2. Line
   placed for HD. 3 hour session last night.
   - Cardiac Enzymes: Flat
   - Urine Lytes: FeUrea 20% so points toward prerenal.
   - Renal Ultrasound: No hydronephrosis.
   - Renal Recs: DC'd Lisinopril/Furosemide, AM Cortisol Pending. Line
   placed for HD. Dialysis last night.
   - Repeat ABG 7.26/52/112.
   - Heparin stopped for placement of Dialysis line.
   - Nursing asked for Social Work Consult - previous notes have stated
   patient has had suicidal ideation and nursing concerned.
   Allergies:
   Byetta (Sub-Q) (Exenatide)
   pancreatitis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2184-1-17**] 03:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-1-18**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 94 (80 - 98) bpm
   BP: 156/80(104) {99/43(60) - 156/85(106)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 168.9 kg (admission): 172 kg
   Height: 72 Inch
                  Total In:
                                                                  1,267 mL
                                                                     60 mL
   PO:
                                                                    480 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,351 mL
   Urine:
                                                                  1,510 mL
                                                                    151 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -393 mL
                                                                 -1,291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (0 - 1,291) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.30/66/120/30/3
   Ve: 6.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Obese but well-kept and nourished man appears stated age.
   Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Very thick neck with substantial adiposity, supple, JVP difficult
   to evaluate but appears elevated, no LAD appreciated.
   Lungs: Crackles bibasally, otherwise clear to auscultation bilaterally
   and throughout, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 +loud S2 with normal split, no
   murmurs, rubs, gallops
   Abdomen: Very obese, soft, non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, liver edge felt laterally
   on right
 very ptosed.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. Edema 1+ in
   feet and ankles.
   Labs / Radiology
   165 K/uL
   8.1 g/dL
   140 mg/dL
   2.2 mg/dL
   30 mEq/L
   4.9 mEq/L
   55 mg/dL
   103 mEq/L
   141 mEq/L
   26.7 %
   3.0 K/uL
        [image002.jpg]
                             [**2184-1-17**]  08:05 AM
                             [**2184-1-17**]  10:21 AM
                             [**2184-1-17**]  01:06 PM
                             [**2184-1-17**]  03:25 PM
                             [**2184-1-17**]  04:51 PM
                             [**2184-1-17**]  05:08 PM
                             [**2184-1-18**]  12:33 AM
                             [**2184-1-18**]  04:21 AM
                             [**2184-1-18**]  04:47 AM
                             [**2184-1-18**]  06:33 AM
   WBC
   5.2
   3.0
   Hct
   27.7
   27.1
   26.7
   Plt
   205
   165
   Cr
   3.1
   3.1
   3.3
   2.2
   TropT
   0.02
   <0.01
   TCO2
   23
   24
   25
   33
   34
   34
   Glucose
   136
   128
   140
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:114/2/<0.01, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Microbiology: MRSA and blood cultures from [**1-17**] pending.
   Assessment and Plan
   This is a 58 year old male with a history of long-standing HIV on
   HAART, pulmonary hypertension, HCV (s/p successful interferon), stage
   IV cirrhosis, dCHF, morbid obesity, DM, OSA, renal insufficiency and
   previous hyperkalemia, who presents to the ED with weight gain, chills,
   dyspnea and increasing edema, ARF. Today he endorses headache and
   myalgia.
   58 y/o severe pulm HTN, HIV >> diastolic dysfunction, cirrhosis,
   admitted with ARF and dyspnea.
   Feels improved today
 etiology for decompensation still unclear.  Had
   not been diuresed significantly by the time he was feeling better,
   improvement may be simply due to supplemental O2.  Further hx suggests
   some chills and malaise, reasonable to cover for CAP given basilar
   opacities.  Volume overload by exam and hx
 BNP inconsistent - will
   repeat, check CVP, plan for further fluid removal; elevated Cr
   ?prerenal d/t R CHF?  Initial concern re: PE, still possible - will
   restart heparin gtt as long as no contraindication, check LENIs, cannot
   CTA with renal dysfunction.
   Longer term management of pulm HTN is not entirely clear
 previous
   plans per notes were to get euvolemic and start inhaled trepoprostinil,
   may eventually need PA cath to properly titrate meds and vol status.
   Reasonable to check repeat echo in meantime.
   Remainder of plan as above.
   Pt is critically ill.  CC time 35 minutes.
   # Dyspnea: Likely multifactorial.  Concerns are for worsening pulmonary
   artery hypertension, infection, CHF.  Infectious etiologies include
   normal pneumonias or oportunistic pathogens such as PCP.  [**Name Initial (NameIs) 1256**] CD4
   count is 385 ([**February 2183**]).  Aother possibilities include CAD/anginal
   equivalent, PE or anxiety.  Patient has been afebrile and there are no
   signs of infection on history and physcial.  WBC is not elevated.  dCHF
   is certainly a possibility however his BMP was not elevated.  Also no
   real O2 requirement just subjective dyspnea.  Still in the setting of
   volume overload this is a consideration.  Unlikely to be CAD or anginal
   equvalent.  [**Month (only) 51**] be partly contributed by anxiety.
   -Hold lasix currently given hyptensive episode.  If pressures stable
   overnight re-start in am.
   -Continue Sildenafil TID
   -Hep gtt for possible PE (increased risk given PAH)
   -ROMI
   -check CD4 count
   -LDH
   -LFTs
   # Pulmonary [**Last Name (un) **] HTN: Difficult treating.  Presumed due to HIV and
   dCHF.  Has not been able to tolerate sildenafil as getting "drunk"
   feelings.  Per recent notes from end of 09 patient seems to be getting
   worse.
   -D/w attending further treatment for PAH, Flolan or other inhailed
   vasodilator.
   -Continue Sildenafil
   -O2 as needed
   -CPAP overnight
   -Consider dig.
   -Assess for pulmonary rehab.
   # Hyperkalemia: K often runs in upper 5s and occasionally lower 6.
   Currently is elevated.  S/p Ca in ED and Kayexelate.  No ECG changes.
   Likely related to renal disase.
   -Kayxelate
   -ECG in am
   -Low K diet.
   # dCHF: Presumed based on Echo and R heart cath.  LV EF preserved and
   hyperdynamic.  Elevated E wave acceleration time.  Unclear if currently
   worse given normal BNP and lack of true desaturation.  Do not suspect
   that dCHF is causing large component of DOE at this time.
   -Holding lasix given sensative preload with PAH and recent hypotensive
   episode.
   # HIV:  Last CD4 count in [**2-17**] was 384.  Patient currently on ARVT.
   -Continue ARV while in house.
   -Check CD4 count, if low consider oportunistic infections.
   # Anemia: Currently stable.  Attributable to HIV and multiple medical
   illenss.
   -Trend hct
   -Transfuse if < 21
   # OSA: Patient with history of noncompliance of CPAP in past, currently
   tolerating it well.  CPAP seems to improve his breathing.
   -CPAP at night
   # Acute renal failre: [**Month (only) 51**] be in setting of increase diuresis.  Recieved
   some fluid in ED.  Will hold am lasix and trend Cr.
   -F/u cr.  If worsening will send urine lytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-1-17**] 05:39 AM
   Arterial Line - [**2184-1-17**] 12:10 PM
   Dialysis Catheter - [**2184-1-17**] 08:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-01-19 08:03:00 Physician Resident Progress Note
Chief Complaint:
   This is a 58 year old male with a history of long-standing HIV on
   HAART, pulmonary hypertension, HCV (s/p successful interferon), stage
   IV cirrhosis, dCHF, morbid obesity, DM, OSA, renal insufficiency and
   previous hyperkalemia, who presents to the ED with weight gain, chills,
   dyspnea and increasing edema, ARF. Today he endorses headache and
   myalgia.
   24 Hour Events:
   - Mystery: BNP not consistent with fluid overload. Patient appears to
   have gained substantial weight, but exam not hugely impressive for
   fluid overload
   - Flu nasopharyngeal swab negative
   - Echo being done at bedside during rounds
   - Subjectively improved
   Allergies:
   Byetta (Sub-Q) (Exenatide)
   pancreatitis;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2184-1-19**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-1-19**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**86**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 81 (76 - 94) bpm
   BP: 154/75(98) {97/47(67) - 154/77(100)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 167.7 kg (admission): 172 kg
   Height: 72 Inch
    CVP: 20 (16 - 20)mmHg
   Total In:
                                                                  1,002 mL
                                                                    464 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    242 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  2,444 mL
                                                                    595 mL
   Urine:
                                                                    944 mL
                                                                    595 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,442 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: 7.41/47/77.[**Numeric Identifier 143**]/29/3
   PaO2 / FiO2: 156
   Physical Examination
   General: Obese but well-kept and nourished man appears stated age.
   Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Very thick neck with substantial adiposity, supple, JVP difficult
   to evaluate but appears elevated, no LAD appreciated.
   Lungs: Crackles bibasally, otherwise clear to auscultation bilaterally
   and throughout, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 +loud S2 with normal split, no
   murmurs, rubs, gallops
   Abdomen: Very obese, soft, non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, liver edge felt laterally
   on right
 very ptosed.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. Edema 1+ in
   feet and ankles.
   Labs / Radiology
   182 K/uL
   8.0 g/dL
   132 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.5 mEq/L
   61 mg/dL
   101 mEq/L
   140 mEq/L
   26.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2184-1-17**]  05:08 PM
                             [**2184-1-18**]  12:33 AM
                             [**2184-1-18**]  04:21 AM
                             [**2184-1-18**]  04:47 AM
                             [**2184-1-18**]  06:33 AM
                             [**2184-1-18**]  08:31 AM
                             [**2184-1-18**]  10:48 AM
                             [**2184-1-18**]  04:29 PM
                             [**2184-1-19**]  03:14 AM
                             [**2184-1-19**]  03:15 AM
   WBC
   3.0
   3.5
   Hct
   26.7
   26.6
   Plt
   165
   182
   Cr
   2.2
   2.3
   2.2
   1.9
   TCO2
   25
   33
   34
   34
   31
   31
   Glucose
   140
   125
   150
   132
   Other labs: PT / PTT / INR:12.9/35.4/1.1, CK / CKMB /
   Troponin-T:114/2/<0.01, Lactic Acid:0.5 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   This is a 58 year old male with a history of long-standing HIV on
   HAART, pulmonary hypertension, HCV (s/p successful interferon), stage
   IV cirrhosis, dCHF, morbid obesity, DM, OSA, renal insufficiency and
   previous hyperkalemia, who presents to the ED with weight gain, chills,
   dyspnea and increasing edema, ARF. Today he endorses headache and
   myalgia.
   Overall, major contributors to his present condition are weight gain
   secondary to both increased ascites (cardiogenic and hepatic),
   pulmonary hypertension and renal failure. BNP and signs of volume
   overload are not marked, and venous pressure is slightly up. Therefore
   likely some increased interstitial fluid/intravascular fluid, with a
   possible large contribution from ascites. This accounts for weight gain
   and some increased difficulty walking before the admission. Pulmonary
   hypertension and resulting fixed cardiac output with slight fluid
   overload are likely contributors to dyspnea, which is recovering well
   with oxygen, Lasix drip. We need to also be mindful of HIV as a cause
   of pulmonary hypertension and also for atypical infections. We still
   await T cell counts.
   # Dyspnea
   Likely multifactorial as mentioned. Pneumonia seems less likely now
   given no constitutional signs of infection. Pulmonary hypertension,
   slight fluid overload are most likely, while we are mindful of unlikely
   pulmonary embolism (given rapid recovery and likely little reserve
   given his underlying physiology). Flu swab is negative and there is
   little concern for CAP.
   - Convert diuresis to bolus for move to floor
   - Continue Sildenafil TID and talk to Dr. [**First Name (STitle) **] further about this
   - Hep gtt for possible PE (increased risk given PAH)
   - Await read of echo
   - Check LENIs as proxy for CTA given renal function and low likelihood
   - Await cell counts (CD4)
   - Stop azithromycin, do not start Tamiflu
   # Pulmonary Arterial HTN
   Difficult treating.  Presumed due to HIV and dCHF. Has not been able to
   tolerate sildenafil as getting "drunk" feelings.  Per recent notes from
   end of 09 patient seems to be getting worse.
   - Await echo
   - D/w outpatient Drs. [**Name5 (PTitle) 9749**] treatment for PAH, Flolan or other
   inhailed vasodilator.
   - Continue Sildenafil in this setting
   - O2 as needed
   - CPAP overnight
   # Hyperkalemia
   Is improved now renal function and acid-base improved. Further HD not
   likely needed at this time.
   - Remove HD line today
   - Low K diet
   # HCV/Liver failure
   Liver failure may also have resulted in some relatively opaque ascites
   in this patient that may account for some weight gain, malaise.
   Therefore also possible, but very unlikey, SBP. This would also be
   consistent with pleural effusion
 mild effusion is seen.
   - Bedside ultrasound and potential tap
   - Diuresis
   # dCHF
   Presumed based on Echo and R heart cath.  Unclear if currently worse
   given normal BNP and lack of true desaturation.  Do not suspect that
   dCHF is causing large component of DOE at this time. Nonetheless,
   weight gain is likely fluid. Despite low BNP likely small exacerbation
   given improved renal function with diuresis.
   - Continue Lasix as tolerated by renal function and pressure.
   # HIV
   Last CD4 count in [**2-17**] was 384.  Patient currently on ARVT. Patient
   was
long term survivor
 off treatment. Likely CD4 count okay, but need
   to evaluate before narrowing differentials for possible pulmonary
   process.
   - Continue ARV while in house
   - Await CD4 count
   # Anemia, near-leucopenia
   Currently stable.  Attributable to HIV and multiple medical illnesses.
   -Trend hct
   -Transfuse if < 21
   # OSA
   Patient with history of noncompliance of CPAP in past, currently
   tolerating it well.  CPAP seems to improve his breathing.
   -CPAP at night
   # Acute renal failre
   Concern for poor renal perfusion given possible fluid overload (BNP
   does not support) versus over-diuresis with recent increase in Lasix at
   home. Will trend Cr and trial diuresis.
   -F/u Cr
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-1-17**] 05:39 AM
   Arterial Line - [**2184-1-17**] 12:10 PM
   Dialysis Catheter - [**2184-1-17**] 08:37 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor today if manageable with bolus Lasix